US08686022B2
(25) (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-morpholin-4-yl-phenyl)-amide
1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid and 3-morpholin-4-yl-phenylamine are used as reactants. O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexafluorophosphate (HATU) is used instead of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate (TBTU).

reactant | 1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid | CN1C(=CC2=CC=CC(=C12)CN1CCN(CC1)C(=O)C1N(CCC1)C)C(=O)O | C21H28N4O3
reactant | 3-morpholin-4-yl-phenylamine | N1(CCOCC1)C=1C=C(C=CC1)N | C10H14N2O
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C=1C=C(C=CC1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C | C31H40N6O3
